US09034866B2
Synthesis of (±)-3-cyclopropyl-9-fluoro-10-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with 1-methoxy-2-methylbut-3-yn-2-ol to give the titled compound. MS+410.2. 1H NMR (400 MHz, DMSO) δ 8.66 (d, J=7.5 Hz, 1H), 7.47 (br s, 1H), 7.25 (d, J=10.1 Hz, 1H), 6.98 (br s, 1H), 5.68 (s, 1H), 5.26 (m, 1H), 3.68 (m, 1H), 3.39 (m, 2H), 3.37 (s, 3H), 3.14 (m, 2H), 1.81-1.59 (overlapping m, 3H), 1.45 (s, 3H), 0.99 (m, 2H), 0.67 (m, 2H).

reactant | 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C3CC3)C1)F | C17H15BrFN3O
reactant | 1-methoxy-2-methylbut-3-yn-2-ol | COCC(C#C)(O)C | C6H10O2
product | (±)-3-cyclopropyl-9-fluoro-10-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | C1(CC1)C1=C(N=C2N1C1CC(C3=C2C=C(C(=C3)F)C#CC(COC)(C)O)C1)C(=O)N | C23H24FN3O3
